US09328096B2
Methyl 2-chloro-4-methoxy-5-(pyridin-2-yl)benzoate
To a solution of methyl 2-chloro-4-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate in dioxane (Preparation 47, 935 mg, 2.86 mmol) was added 2M Na2CO3 (4.30 mL, 8.58 mmol) and stirred for 15 minutes at room temperature. 2-bromopyridine (542 mg, 3.43 mmol) was added and the reaction was purged with nitrogen for 15 minutes. Pd(dppf)Cl2 (117 mg, 0.14 mmol) was added and the reaction heated at 110° C. for 2 hours. The reaction was cooled to room temperature, filtered through arbocel and washed with EtOAc (50 mL). The filtrate was washed with brine (50 mL) and the aqueous layer was re-extracted with EtOAc (50 mL). The combined organic layers were dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 10-20% EtOAc in heptanes to afford the title compound (282 mg, 35% over 2 steps).

reactant | methyl 2-chloro-4-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | ClC1=C(C(=O)OC)C=C(C(=C1)OC)B1OC(C(O1)(C)C)(C)C | C15H20BClO5
reactant | dioxane | 2.86 mmol, 935 mg | O1CCOCC1 | C4H8O2
reactant | Na2CO3 | 8.58 mmol, 2M, 4.30 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-bromopyridine | 3.43 mmol, 542 mg | BrC1=NC=CC=C1 | C5H4BrN
catalyst | Pd(dppf)Cl2 | 0.14 mmol, 117 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Methyl 2-chloro-4-methoxy-5-(pyridin-2-yl)benzoate | 282 mg, 35% | ClC1=C(C(=O)OC)C=C(C(=C1)OC)C1=NC=CC=C1 | C14H12ClNO3
